US04649146
A solution of 5-(2-guanidinothiazol-4-yl)-2-(N-methylformamido)-4-methylthiazole (1.5 g) in a mixture of methanol (25 ml) and 10% hydrochloric acid was stirred for 2 hours under refluxing. After addition of water (100 ml), the reaction mixture was adjusted to pH 7.0 with 20% aqueous potassium carbonate. The resulting precipitate was collected by filtration, washed with water (10 ml×2) and methanol (15 ml×2) successively and dried over phosphorus pentoxide under reduced pressure to give 5-(2-guanidinothiazol-4-yl)-4-methyl-2-methylaminothiazole (1.05 g).

reactant | 5-(2-guanidinothiazol-4-yl)-2-(N-methylformamido)-4-methylthiazole | 1.5 g | N(C(=N)N)C=1SC=C(N1)C1=C(N=C(S1)N(C=O)C)C | C10H12N6OS2
reactant | water | 100 ml | O | H2O
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 25 ml | CO | CH4O
solvent | hydrochloric acid | Cl | ClH
product | 5-(2-guanidinothiazol-4-yl)-4-methyl-2-methylaminothiazole | 1.05 g | N(C(=N)N)C=1SC=C(N1)C1=C(N=C(S1)NC)C | C9H12N6S2
